US20010007873A1
C. 4-Benzyloxy-2-isopropyl-benzeneboronic acid
Under a N2 atmosphere in 300 mL of anhydrous THF was added 44.46 g (145.7 mmol) of 1-bromo-2-isopropyl-4-benzyloxy-benzene. The solution was cooled to −78° C. and 64.1 mL (160.2 mmol) of a 2.5 M solution of butyl lithium was added dropwise while maintaining the temperature below −70° C. The reaction mixture was stirred at −78° C. for 1.0 hours at which point 27.26 mL (160.2 mmol) of triethyl borate was added. The reaction was allowed to stir at less than −60° C. for an additional 2.0 hours. The reaction mixture was allowed to warm to ambient temperature and quenched with 200 mL of saturated NH4Cl. Water (100 mL) was added to this solution, the pH was adjusted to 3.0 with conc HCl and the resultant solution was extracted with ethyl acetate (1×200 mL). The ethyl acetate extract was washed with brine (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield crude product as a pink solid which was triturated with ethyl acetate/hexane to afford 16.80 g (43%) of the title compound as a tan colored solid.

reactant | 1-bromo-2-isopropyl-4-benzyloxy-benzene | 145.7 mmol, 44.46 g | BrC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(C)C | C16H17BrO
reactant | butyl lithium | C(CCC)[Li]
reactant | triethyl borate | 160.2 mmol, 27.26 mL | B(OCC)(OCC)OCC | C6H15BO3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-Benzyloxy-2-isopropyl-benzeneboronic acid | 16.80 g, 43% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)B(O)O)C(C)C | C16H19BO3
